US07964643B2
4-Bromo-2-trifluoromethoxyphenyl-sulfonic acid-(4-hydroxybutyl)-amide
Using a method analogous to that described in Example 1, 4-bromo-2-trifluoromethoxyphenyl sulphonyl chloride was reacted with 4-aminobutanol, and the title compound obtained as a white solid after recrystallisation from ether/petrol. δC (CDCl3, 62.9 MHz): 26.5, 29.4, 43.3, 62.1, 127.3, 131.7, 131.7, 133.1, 135.4 and 137.9.

reactant | 4-bromo-2-trifluoromethoxyphenyl sulphonyl chloride | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C7H3BrClF3O3S
reactant | 4-aminobutanol | NCCCCO | C4H11NO
product | 4-Bromo-2-trifluoromethoxyphenyl-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=C(C=C(C=C1)Br)OC(F)(F)F | C11H13BrF3NO4S
